Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F with hx of OSA, DM (last A1c 7.2), HLD, and gout who
presents with 1 week of SOB and then epigastric pain x 1 day.

For the past week, the patient has dyspnea on exertion that she
first noticed while grocery shopping. Last night, she had some
heaviness in the epigastric region with no worsening dyspnea,
similar to symptoms she has had in the past albeit to a lesser
extent. However, the next morning, she continued to have
epigastric pain and came to the ED for further evaluation.

In the ED, her EKG showed new T-wave inversions in V2 and V4.
Atrius cardiology was consulted and suspected PE especially with
high d-dimer. CTA showed new PE as noted below.

The patient reports recent travel between ___ and ___ in late
___ and ___ ___. No other long trips, recent surgeries, leg
injuries, or immobilization. Per chart review, the patient had a
DVT and PE in ___ after she a tibial fracture repair. No longer
on anticoagulation as it is provoked. She reports occasional leg
cramps but no calf or thigh tenderness and no edema. Has also
noted some discomfort in the L shoulder and L arm, though not
entirely related to arm movement. No history of falls or
bleeding. Is a nonsmoker. No history of cancer.  

 In the ED, initial vitals: HR 91, 160/83, RR 20, 95% on 6 L O2  

 - Exam notable for: JVP is mildly elev at about 9 cm, with min
pos HJR. Lungs clear. No RV heave, M/R/G. Obese No palp liver. 
No
calf or thigh tend or palp cords.  
 - Labs notable for: Hgb 12.6. Nl WBC and plat counts. INR 1.1,
PTT 25. BUN/Cr ___. Lytes 135/4.___. Anion gap18  
 MB 2, CK 88, trop < 0.01. D-dimer incr at 3130. Lactate 3.5  
 - Imaging notable for:  
 CTA with acute and bilateral PE involving the distal main
pulmonary arteries with extension into segmental and 
subsegmental
branches of all lobes. CT evidence of mild RH strain  
 CXR with mild pulmonary edema, enlargement of the R hilus, no
e/o PNA or pleural effusion  
 - Pt given: IV drip of nitroglycerin 0.35 mcg/kg/min -
transitioned to SL NTGx2, ASA 324mg, started on Heparin gtt
@850u/hr  
 - EKG at 3 AM: NSE 85. PR 241. Consider LVH. T inversion v1-V3
(6 mm in V2) and terminal T inversion in V4. CPt of ___, 
incr
T inversion in V1 and new T inversion in V2-V4.  
 - Vitals prior to transfer: T97.9, HR 82, BP 125/66, RR 20, 94%
4L NC  
 Cardiology consulted in ED and categorized PE as submassive 1A
given sigsn on CT of R heart strain but no elevation of 
troponin.
They do not favor pt to receive thrombolytics or catheter
intervention. Recommends keeping on IV heparin for ___ and
then considering apixaban 10mg BID x7 days followed by 5mg BID.  


 On the floor,  the patient reports feeling much better with
resolution of her shortness of breath and epigastric pain. She
endorses the above story. She has no hemoptysis but does have a
dry cough.

 
Past Medical History:
-T2DM  
-HLD  
-OSA  
-gout  
-diverticulosis  
-s/p total R knee replacement
-History of PE and DVT in ___ after tibial fracture
-Hysterectomy
-Last colonoscopy was documented in ___  
 
Social History:
___
Family History:
mother had HTN and DM, father died of CA at age ___. She has
8 children, two of them have Goiters.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
 VITALS:  ___ Temp: 98.1 PO BP: 168/93 R Lying HR: 84
RR: 20 O2 sat: 96% O2 delivery: 4L NC 
 General: NAD, fatigued 
 HEENT: Sclerae anicteric, MMM, neck supple  
 CV: RRR  
 Lungs: Occasional bibasilar crackles. Other CTAB  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
 Ext: Warm, well perfused
 Skin: Warm, dry, no rashes or notable lesions.  
 Neuro: CNII-XII grossly intact

DISCHARGE PHYSICAL EXAM:
========================
VS: T 98.8  BP 117 / 74 HR 79 RR 18 O2 Sat 91 Ra 
  ___-93% RA while ambulating 
General: NAD, fatigued 
HEENT: Sclerae anicteric, MMM, neck supple, no appreciable JVD 
CV: RRR, no m/r/g
Lungs: CTAB, no wheezes, crackles, rhonchi
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused
Skin: Warm, dry, no rashes or notable lesions.  
 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:20AM   WBC-5.3 RBC-4.25 HGB-12.6 HCT-37.6 MCV-89 
MCH-29.6 MCHC-33.5 RDW-13.1 RDWSD-42.0
___ 11:20AM   NEUTS-66.1 ___ MONOS-7.1 EOS-1.5 
BASOS-0.9 IM ___ AbsNeut-3.53 AbsLymp-1.27 AbsMono-0.38 
AbsEos-0.08 AbsBaso-0.05
___ 11:20AM   ___ PTT-25.2 ___
___ 11:20AM   D-DIMER-3130*
___ 11:20AM   ALBUMIN-4.0 CALCIUM-9.6 PHOSPHATE-3.2 
MAGNESIUM-1.9
___ 11:20AM   cTropnT-<0.01
___ 11:20AM   CK-MB-2
___ 11:20AM   ALT(SGPT)-81* AST(SGOT)-69* CK(CPK)-88 ALK 
PHOS-71 TOT BILI-0.5
___ 11:20AM   LIPASE-22
___ 11:20AM   GLUCOSE-246* UREA N-13 CREAT-1.0 SODIUM-135 
POTASSIUM-4.1 CHLORIDE-99 TOTAL CO2-18* ANION GAP-18
___ 11:24AM   LACTATE-3.5*
___ 03:21PM BLOOD CK-MB-2 proBNP-___*

DISCHARGE LABS:
===============
___ 05:41PM BLOOD Lactate-1.9
___ 08:45AM BLOOD WBC-4.5 RBC-4.25 Hgb-12.9 Hct-38.4 MCV-90 
MCH-30.4 MCHC-33.6 RDW-13.2 RDWSD-43.3 Plt ___
___ 08:45AM BLOOD Glucose-235* UreaN-11 Creat-0.9 Na-139 
K-4.3 Cl-101 HCO3-21* AnGap-17
___ 08:45AM BLOOD ALT-62* AST-34 AlkPhos-71

IMAGING/STUDIES:
================
CXR ___
No comparison.  The radiograph shows signs of mild pulmonary 
edema.  In 
addition, there is enlargement of the right hilus that should be 
worked up by CT.  Mild tortuosity of the descending aorta.  No 
evidence of pneumonia or pleural effusion. 

CTA Chest ___
1. Acute and bilateral pulmonary emboli involving the distal 
main pulmonary arteries with extension into segmental and 
subsegmental branches of all lobes. There is CT evidence of 
right mild heart strain. 
2. No pulmonary infarct. 

Bilateral lower extremity US ___
Nonocclusive thrombus in the posterior aspect of the right mid 
peroneal vein.

TTE ___
Dilated right ventricle with moderate RV systolic dysfunction. 
Symmetric LVH with normal global and regional left ventricular 
systolic function. Moderate functional tricuspid regurgitation. 
Moderate pulmonary hypertension. Quantitative biplane left 
ventricular ejection fraction is 72 %.

 
Brief Hospital Course:
=================
SUMMARY STATEMENT:
=================
___ F with hx of OSA, DM (last A1c 7.2), HLD, and gout who
presents with 1 week of SOB and then epigastric pain x 1 day and
found to have acute PE treated with heparin gtt and transitioned 
to apixiban. 

=============
ACTIVE ISSUES:
=============
# ACUTE HYPOXIC RESPIRATORY FAILURE:
# ACUTE SUBMASSIVE PULMONARY EMBOLI: Patient presenting with new
O2 requirement to 4L and epigastric pain with recent trip to
___ and found to have acute, bilateral PE into segmental and
subsegmental branches of all lobes. No troponin bump and HD
stable. CT scan and ECHO with signs of right heart stain and BNP
elevated to ___. Did not have indication for lytics of 
thrombolysis. LENIs with nonocclusive thrombus in the posterior 
aspect of the right mid peroneal vein. Started on heparin gtt 
initially and transitioned to apixaban (___). She should 
take 10mg BID for 14 doses (until ___ in AM) and then 
transition to 5mg BID until her cardiologist tells her 
otherwise. Upon discharge, she had O2 sats in low ___ on RA 
including with ambulation.

# AV Block: EKG on admission: NSR, normal axis, early R wave 
progression,
anterior TWI V1-V4, q-wave III
TELEMETRY: Brief period of high degree block around 6AM with 5
non conducted p-waves. Possibly vagal given time and 
asymptomatic
nature of pause, but as she had mobitz II, EP consulted to weigh
in on pacer placement. ___ also be provoked from untreated OSA 
(off CPAP for ~6 months). Monitored on tele, and sent out with 
___ of hearts and follow up in ___ clinic in 1 month with Dr. 
___. She should wear her CPAP while at home. This appointment 
was not yet scheduled on discharge but the clinic plans to call 
the patient within ___ days for follow-up.

# Mild transaminitis: ALT 81 AST 69 on admission, but 
downtrended to ALT 62 AST 34.

=======================
CHRONIC/STABLE PROBLEMS:
======================= 
# Type II DM: Held glipizide while inpatient, but restarted upon 
discharge.
# Hyperlipidemia: Continued atorvastatin
# History of Gout: Continued allopurinol
# Insomnia: Held while inpatient

====================
TRANSITIONAL ISSUES:
====================
Discharge weight: 104.15 kg (229.6lb)
Discharge creatinine: 0.9

NEW MEDS: Apixaban 10mg BID for 14 doses (until ___ in AM) and 
then transitioned to 5mg BID.

[] Patient should receive call scheduling EP follow up with 
___- make sure she has appointment in ~1month
[] ___ of hearts event monitor
[] She should be wearing her CPAP while sleeping 
[] Consider outpatient echocardiogram to follow up on RV 
dysfunction. Notably, her EF is normal. 

Code Status: Full
Contact: ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. GlipiZIDE XL 10 mg PO DAILY 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
3. Allopurinol ___ mg PO BID 
4. Atorvastatin 10 mg PO QPM 
5. TraZODone 50 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 12 Doses 
Please take 10mg BID for 12 doses (until AM dose on ___ 
followed by 5mg BID  
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth twice a day 
Disp #*90 Tablet Refills:*0 
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB  
3.  Allopurinol ___ mg PO BID  
4.  Atorvastatin 10 mg PO QPM  
5.  GlipiZIDE XL 10 mg PO DAILY  
6.  TraZODone 50 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pulmonary Embolism
High grade AV block

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Ms. ___,  
It was a pleasure caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You had shortness of breath and abdominal pressure for the 
past week

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were found to have blood clots in the blood vessels that 
go to your lungs called a PE (pulmonary embolism)
- You were given a blood thinner (heparin) while in the hospital
- You were sent home on apixaban (Eliquis) 
- You were found to have an abnormal heart rhythm and suggested 
to have a heart monitor as an outpatient. This heart rhythm 
could be related to your obstructive sleep apnea.
- You had an ultrasound of your heart which showed some 
dysfunction in the right side of your heart, which is related to 
your pulmonary embolism. You may benefit from another ultrasound 
in the future. Your doctor ___ tell you if you need a repeat 
ultrasound.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments. 
- You will be taking apixaban 10mg twice daily until morning 
dose of ___. Then you will take apixaban 5mg twice daily until 
your doctor tells you to stop.
- Please wear your ___ of Hearts monitor while you are awake. 
You do not need to wear it when you are sleeping.
- Follow up with cardiology as below. Your cardiologist will 
also tell you if you have any abnormal heart rhythms on your 
heart monitor. You should notify your doctor if you have any 
abnormal symptoms including palpitations, trouble breathing, 
confusion, or fainting.
 
We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___